US06969725B2
d] (2S)-2-Ethoxy-3-(4-hydroxy-2-methyl-phenyl)-propionic acid methyl ester
A solution of (2S)-3-(4-benzyloxy-2-methyl-phenyl)-2-ethoxy-propionic acid methyl ester (3.6 g, 11 mmol) in methanol (300 ml) was hydrogenated over 10% palladium on charcoal (1 g) at ambient temperature for 2 h. The catalyst was filtered off and the solvent evaporated under reduced pressure to give 2 g (8.4 mmol, 77%) of the title compound as yellow liquid which was used in the next step without further purification.

reactant | (2S)-3-(4-benzyloxy-2-methyl-phenyl)-2-ethoxy-propionic acid methyl ester | 11 mmol, 3.6 g | COC([C@H](CC1=C(C=C(C=C1)OCC1=CC=CC=C1)C)OCC)=O | C20H24O4
solvent | methanol | 300 ml | CO | CH4O
catalyst | palladium on charcoal | 1 g | [Pd] | Pd
product | (2S)-2-Ethoxy-3-(4-hydroxy-2-methyl-phenyl)-propionic acid methyl ester | 8.4 mmol, 2 g, 77% | COC([C@H](CC1=C(C=C(C=C1)O)C)OCC)=O | C13H18O4
